US04046753
2-Phenylhydrazino-2-Thiazoline Hydrochloride
A solution of 19.3 g. of 2-phenylhydrazino-2-thiazoline in 200 ml. of dry ethyl ether and 50 ml. of methanol is saturated with dry hydrogen chloride gas at 0° C. and stored at 0°-5° C. for 4 days. The crystalline material is filtered and washed with ether affording 16.5 g. of 2-phenylhydrazino-2-thiazoline hydrochloride, m.p. 300° C.

reactant | 2-phenylhydrazino-2-thiazoline | C1(=CC=CC=C1)NNC=1SCCN1 | C9H11N3S
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-Phenylhydrazino-2-Thiazoline Hydrochloride | Cl.C1(=CC=CC=C1)NNC=1SCCN1 | InChI=1S/C9H11N3S.ClH/c1-2-4-8(5-3-1)11-12-9-10-6-7-13-9;/h1-5,11H,6-7H2,(H,10,12);1H
